US04060633
A solution of 4'-fluoro-4-biphenylyl-magnesium bromide obtained from 2.51 g. of 4'-fluoro-4-bromo-biphenyl and 0.24 g. of magnesium in 100 ml. of ether is added dropwise, while stirring, at 20° to a solution of 0.9 g. of 1-fluorobutan-3-one in 40 ml. of ether, the mixture is stirred for a further 2 hours, the resulting alcoholate is decomposed with ice and saturated NH4Cl solution and the mixture is worked up in the customary manner to give 1-fluoro-3-(4'-fluoro-4-biphenylyl)-butan-3-ol, m.p. 90° - 92°.

reactant | 4'-fluoro-4-bromo-biphenyl | FC1=CC=C(C=C1)C1=CC=C(C=C1)Br | C12H8BrF
reactant | magnesium | [Mg] | Mg
reactant | 1-fluorobutan-3-one | FCCC(C)=O | C4H7FO
reactant | NH4Cl | [NH4+].[Cl-]
solvent | ether | CCOCC | C4H10O
product | 1-fluoro-3-(4'-fluoro-4-biphenylyl)-butan-3-ol | FCCC(C)(O)C1=CC=C(C=C1)C1=CC=C(C=C1)F | C16H16F2O
